US07714009B2
7-[(4-Chlorophenyl)(isopropyl)amino]-3-(4-methoxy-benzyl)-1-methyl-1,3-dihydro-2H-benzimidazol-2-one
To a mixture of 7-[(4-chlorophenyl)amino]-3-(4-methoxybenzyl)-1-methyl-1,3-dihydro-2H-benzimidazol-2-one (0.118 g, 0.30 mmol), 2-bromopropane (0.056 ml, 0.60 mmol), tetrabutylammonium iodide (small amounts) and N,N-dimethylformamide (2 ml) was added sodium hydride (16 mg, 0.60 mmol, 90% dry). The mixture was stirred at 60° C. for 6 h. The mixture was diluted with water (20 ml) and extracted with ethyl acetate (40 ml). The extract was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was flash chromatographed with 20-33% ethyl acetate/hexanes to give 80.6 mg (62%) of the title compound as an oil.

reactant | 7-[(4-chlorophenyl)amino]-3-(4-methoxybenzyl)-1-methyl-1,3-dihydro-2H-benzimidazol-2-one | 0.30 mmol, 0.118 g | ClC1=CC=C(C=C1)NC1=CC=CC2=C1N(C(N2CC2=CC=C(C=C2)OC)=O)C | C22H20ClN3O2
reactant | 2-bromopropane | 0.60 mmol, 0.056 ml | BrC(C)C | C3H7Br
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.60 mmol, 16 mg | [H-].[Na+]
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 20 ml | O | H2O
product | 7-[(4-Chlorophenyl)(isopropyl)amino]-3-(4-methoxy-benzyl)-1-methyl-1,3-dihydro-2H-benzimidazol-2-one | 80.6 mg, 62% | ClC1=CC=C(C=C1)N(C1=CC=CC2=C1N(C(N2CC2=CC=C(C=C2)OC)=O)C)C(C)C | C25H26ClN3O2
